US07402595B2
2-benzyl-6-chloro-4-(3-formylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 272 and using 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg) and 3-formylphenylboronic acid. Colorless crystals (140 mg).

reactant | 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1OS(=O)(=O)C(F)(F)F)Cl)=O)CC1=CC=CC=C1 | C19H13ClF3NO6S
reactant | 3-formylphenylboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 2-benzyl-6-chloro-4-(3-formylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)C=O)Cl)=O)CC1=CC=CC=C1 | C25H18ClNO4
